US07678801B2
110b) 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]pyrido[2,3-d]pyrimidin-7(8H)-one
The title compound was prepared as described in Example 1d from 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7(8H)-one and 2,2,6,6-tetramethyl-4-piperidinamine: LC-MS m/z 519 (M+H)+, 1.8 min (ret time).

reactant | 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7(8H)-one | NC=1C=CC(=C(C1)C=1C2=C(N=C(N1)S(=O)(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C | C21H16F2N4O3S
reactant | 2,2,6,6-tetramethyl-4-piperidinamine | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
product | 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]pyrido[2,3-d]pyrimidin-7(8H)-one | NC=1C=CC(=C(C1)C=1C2=C(N=C(N1)NC1CC(NC(C1)(C)C)(C)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C | C29H32F2N6O
